US06265397B1
(i) Ethyl 3-(4-chloro-2-methylphenoxy)propionate
The sub-title compound was prepared according to the method described in Example 27(i) above from 4-chloro-2-methylphenol (4.99 g; 35.0 mmol), sodium (0.055 g; 2.4 mmol), ethanol (1.5 mL) and ethyl acrylate (4.1 g; 41 mmol). The crude product (1.98 g; 23%) was used for the next step without further purification.

reactant | 4-chloro-2-methylphenol | 35.0 mmol, 4.99 g | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | sodium | 2.4 mmol, 0.055 g | [Na] | Na
reactant | ethyl acrylate | 41 mmol, 4.1 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | Ethyl 3-(4-chloro-2-methylphenoxy)propionate | ClC1=CC(=C(OCCC(=O)OCC)C=C1)C | C12H15ClO3
